US06891066B2
To a stirring suspension of the product of Example 32, Step B, 5,6-O-isopropylidene-L-gulono-1,4-lactone, in water is added solid sodium periodate in small portions at 3° C. to 5° C. The pH of the mixture is adjusted to 5.5 with 1N aqueous sodium hydroxide. The suspension is stirred for 2 hours at ambient temperature, then saturated with sodium chloride and filtered. To the filtrate, at 3° C. to 5° C., is added sodium borohydride in small portions. The reaction mixture is stirred for 18 hours at ambient temperature. Acetone is added to destroy the excess of sodium borohydride, and the stirring is continued for 30 minutes. The acetone is removed under reduced pressure and the aqueous residue is extracted with dichloromethane and EtOAc. The combined organic layers are dried over magnesium sulfate, filtered, and evaporated to give (R)-(+)-(2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol.

reactant | 5,6-O-isopropylidene-L-gulono-1,4-lactone | CC1(OC[C@H](O1)[C@@H]2[C@@H]([C@@H](C(=O)O2)O)O)C | C9H14O6
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | (R)-(+)-(2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | CC1(OC[C@H](O1)CO)C | C6H12O3
